US05874436
N,N'-Bis(t-butoxycarbonyl)-N"-(4-hydroxyphenyl)methylguanidine
4-hydroxybenzylamine hydrate, prepared as above (5.33 g) and N,N'-Bis(tert-butoxycarbonyl)-S-methylisothiourea (10.96 g) were combined in 150 mL THF, and stirred at reflux for 4 hr. The mixture was concentrated, and the crude product chromatographed on silica gel with 10% ethyl acetate in dichloromethane. Recrystallization from methanol-water provided the title compound as a white solid, mp 187°-189° C. (10 g, 70%).

reactant | 4-hydroxybenzylamine hydrate | O.OC1=CC=C(CN)C=C1
reactant | N,N'-Bis(tert-butoxycarbonyl)-S-methylisothiourea | 10.96 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N,N'-Bis(t-butoxycarbonyl)-N"-(4-hydroxyphenyl)methylguanidine | C(C)(C)(C)OC(=O)NC(=NCC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C | C18H27N3O5
